US07544697B2
1-Butyl-5-[2-(propylsulfonyl)ethyl]-1H-pyrazole-3-carboxamide (4.00 g, 13.27 mmol) in toluene (66 mL) was treated with phosphorous oxychloride (2.50 mL, 26.5 mol). The solution was heated at reflux for 1 hour. The reaction mixture was allowed to cool to ambient temperature and the volatiles were removed under reduced pressure. The resulting oil was diluted with water (50 mL) and saturated aqueous sodium bicarbonate. The mixture was extracted with dichloromethane (2×50 mL). The organic layers were combined, washed with saturated aqueous sodium bicarbonate (50 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 3.8 g of 1-butyl-5-[2-(propylsulfonyl)ethyl]-1H-pyrazole-3-carbonitrile as a brown oil.

reactant | 1-Butyl-5-[2-(propylsulfonyl)ethyl]-1H-pyrazole-3-carboxamide | 13.27 mmol, 4.00 g | C(CCC)N1N=C(C=C1CCS(=O)(=O)CCC)C(=O)N | C13H23N3O3S
reactant | phosphorous oxychloride | 26.5 mol, 2.50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 66 mL | C1(=CC=CC=C1)C | C7H8
product | 1-butyl-5-[2-(propylsulfonyl)ethyl]-1H-pyrazole-3-carbonitrile | 3.8 g | C(CCC)N1N=C(C=C1CCS(=O)(=O)CCC)C#N | C13H21N3O2S
